US08455658B2
Compound 40: 2,6-difluoro-N-(4-(hydroxymethyl)-5-(3-(fluoro)phenyl)thiazol-2-yl)benzamide
The title compound was prepared by reducing Methyl 2-(2,6-difluorobenzamido)-5-(3-fluorophenyl)thiazole-4-carboxylate with lithium aluminum hydride (2 equiv) in THF. Yield: 92%. H-NMR(CDCl3) 7.50-6.90 (7H, m), 4.60 (2H, s). MS (ESI) [MH+] 365.

reactant | Methyl 2-(2,6-difluorobenzamido)-5-(3-fluorophenyl)thiazole-4-carboxylate | FC1=C(C(=O)NC=2SC(=C(N2)C(=O)OC)C2=CC(=CC=C2)F)C(=CC=C1)F | C18H11F3N2O3S
reactant | lithium aluminum hydride | 2 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-difluoro-N-(4-(hydroxymethyl)-5-(3-(fluoro)phenyl)thiazol-2-yl)benzamide | Yield: 92% | FC1=C(C(=O)NC=2SC(=C(N2)CO)C2=CC(=CC=C2)F)C(=CC=C1)F | C17H11F3N2O2S
